US04065467
a solution of methyl 3-acetyl-4-hydroxy-benzoate (54 g) and methyl 2-benzyloxy-benzoate (135 g) in dioxane (400 ml) was slowly added under stirring at room temperature to a suspension of sodium hydride 50% (40 g) in dioxane (150 ml). The mixture was kept for 5 hours at 70° C, then cooled and diluted with petroleum ether, and subsequently filtered. The collected precipitate was dissolved in water, acidified with acetic acid and extracted with ethylacetate. The organic phase was washed with potassium carbonate 5% and water, then evaporated to dryness. After crystallisation from methanol, (2-hydroxy-5-carbomethoxy-benzoyl)-(2-benzyloxy-benzoyl)-methane (74 g; m.p. 95°-97° C) was obtained, which was then refluxed for 24 hours with formic acid 99% (500 ml). After cooling and dilution with ethanol (500 ml), the precipitate obtained was filtered and washed with ethanol to give 6-carbomethoxy-2'-hydroxy-flavone (31 g; m.p. 290°-291° C) which was then reacted in dimethylformamide (150 ml) with 1-chloro-2-benzoyloxy-propane (26 g) and potassium carbonate (18 g) at 70° C for 16 hours. The mixture was cooled, diluted in water (600 ml), filtered, then washed with water to obtain 6-carbomethoxy-2'-(2-benzoyloxy-propoxy)-flavone (45 g), which was hydrolysed with a solution of potassium hydroxide 1% (l. 1,250) in ethanol (95%) at reflux temperature for an hour. After cooling, acidification with acetic acid, concentration to small volume under vacuum and dilution in water, the precipitate obtained was filtered, then washed with water to give, after crystallisation with methylene chloride/ethylacetate, 6-carboxy-2'-(2-hydroxy-propoxy)-flavone (18.5; m.p. 211°-213° C.

reactant | methyl 3-acetyl-4-hydroxy-benzoate | 54 g | C(C)(=O)C=1C=C(C(=O)OC)C=CC1O | C10H10O4
reactant | methyl 2-benzyloxy-benzoate | 135 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC=C1 | C15H14O3
reactant | sodium hydride | 40 g | [H-].[Na+]
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | (2-hydroxy-5-carbomethoxy-benzoyl)-(2-benzyloxy-benzoyl)-methane | 74 g | OC1=C(C(=O)CC(C2=C(C=CC=C2)OCC2=CC=CC=C2)=O)C=C(C=C1)C(=O)OC | C24H20O6
